US07109219B2
5-(6-Aminopyrimidin-4-yloxy)-1H-indol-1-carboxylic acid methylamide
Sodium hydride (199 mg, 4.97 mmol) was suspended in N,N-dimethylformamide (10 ml) under nitrogen atmosphere, 6-(1H-indol-5-yloxy)pyrimidin-4-ylamine (1.07 g, 4.73 mmol) synthesized in Production example 2-2 was gradually added while the reaction mixture was stirred at room temperature. After 30 minutes, the reaction mixture was cooled with an ice water bath, then phenyl N-methylcarbamate (751 mg, 4.97 mmol) synthesized in Production example 2-1 was added. The reaction mixture was heated to room temperature and stirred for 1 hour. The reaction mixture was partitioned between ethyl acetate and water. The organic layer was washed with water and brine, and was dried over anhydrous magnesium sulfate. After the solvent was distilled off, the residue was purified by silica gel column chromatography (eluent; ethyl acetate) to yield the title compound (847 mg, 2.99 mmol, 63%) as white crystals.

reactant | Sodium hydride | 4.97 mmol, 199 mg | [H-].[Na+]
reactant | 6-(1H-indol-5-yloxy)pyrimidin-4-ylamine | 4.73 mmol, 1.07 g | N1C=CC2=CC(=CC=C12)OC1=CC(=NC=N1)N | C12H10N4O
reactant | phenyl N-methylcarbamate | 4.97 mmol, 751 mg | CNC(OC1=CC=CC=C1)=O | C8H9NO2
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 5-(6-Aminopyrimidin-4-yloxy)-1H-indol-1-carboxylic acid methylamide | 2.99 mmol, 847 mg, 63% | CNC(=O)N1C=CC2=CC(=CC=C12)OC1=NC=NC(=C1)N | C14H13N5O2
